US05177089
(E)-4-(4-fluorophenyl)-3-butenoic acid
74.4 g of 4-fluorobenzaldehyde and 233.6 g of β-carboxyethyl-triphenyl phosphonium chloride were suspended in 700 ml of tetrahydrofuran and these were incubated on ice and stirred. Into this 500 ml tetrahydrofuran solution of 141.4 g of potassium tert-butoxide was added slowly dropwise. 30 minutes after temperature was brought to room temperature and then they were stirred for 10 hours. After adding thereto ice water and cleaning with ether, the hydrogen-ion concentration of water layer was set to pH2 with undiluted hydrochloric acid. Extraction was then made with ethyl acetate. After drying with magnesium sulfate and concentration made under reduced pressure, the solid obtained was recrystallized from hydrous ethanol, and 53.98 g of marked compound (yield: 50%) was obtained as white needle crystal.

reactant | 4-fluorobenzaldehyde | 74.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | β-carboxyethyl-triphenyl phosphonium chloride | 233.6 g | [Cl-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 141.4 g | CC(C)([O-])C.[K+]
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | (E)-4-(4-fluorophenyl)-3-butenoic acid | 53.98 g, yield: 50% | FC1=CC=C(C=C1)/C=C/CC(=O)O | C10H9FO2
